*******************************************************************************
*                                                                             *
* Copyright 2023 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
*******************************************************************************

.model cmim_core C (TC1=3.6E-6 TC2=2E-9 TNOM=27 CJ=cap_carea CJSW=40E-18)

*******************************************************************************
* parasitics
*******************************************************************************

* SiO2: only area cap., prozess tol. cap_cpara
* C value is taken from extraction routine

* hard coded typ corner (cap_cpara=1.0)
*.param cap_cpara=1.0

.subckt cparasitic PLUS MINUS
.param c=0
.param w=0
.param l=0
.param ic=1E10
.param tc1=0
.param tc2=0
*.if (ic>1E9)
C1 PLUS MINUS c=c*cap_cpara tc1=tc1 tc2=tc2
*.else
*  C1 PLUS MINUS c=c*cap_cpara tc1=tc1 tc2=tc2 ic=ic
*.endif
.ends cparasitic

*******************************************************************************
* cmim
*******************************************************************************

* subcircuit for cmim
* Note: top/bottom plate parasitic capacitance is included by parasiticC extraction!
* Note: top (Metal3) corresponds to PLUS pin
*
.subckt cap_cmim PLUS MINUS
.param l=7u
.param w=7u
.param sf=1E-6
.param ic=1E10
R1 PLUS 1 r=55m
*.if (ic>1E9)
C1 1 MINUS cmim_core l=l/sf w=w/sf
*.else
*  C1 1 MINUS cmim_core m l=l/sf w=w/sf ic=ic
*.endif
.ends cap_cmim


*******************************************************************************
* rfcmim
*******************************************************************************


* subcircuit for rfcmim
* Note: top plate (Metal3) corresponds to PLUS pin, bottom plate corresponds to MINUS pin, bn is substrate bulk node
* Note: valid parameter range for w and l: 7um to 75um
* Note: valid parameter range for wfeed: 1um to 30um but maximum wfeed = w-1.2um
*
.subckt cap_rfcmim PLUS MINUS bn
.param l=7u
.param w=7u
.param wfeed=2E-6

.param ic=1E10
.param sf=1E-6
.param cic0=1E-18

.param lplate_val = {(0.353158 * (l/sf) + 0.485684*l/w) * 1e-12}
.param lfeed_val  = {(6.03468  + 0.0814268* (w/sf) - 0.821243*log(wfeed/sf)/log(1.55)) * 1e-12}
.param lskin_val  = {1.18545e-012 + 6.95462e-014*(l/sf)}
.param cox_val    = {(0.48922 + 0.0965145*(w+l)/sf + 0.00610947   * (w*l)/(sf*sf) + 0.017*(wfeed/sf)*5)*1e-15}
.param csub_val   = {(50.1021 + 0.277881 *(w+l)/sf + 1.25023e-005 * (w*l)/(sf*sf))*1e-15}
.param rsub_val   = {610.132  - 1.11685  *(w+l)/sf + 0.00434371   * (w*l)/(sf*sf)}
.param rmim_val   = {0.0463973 + 0.00219577*l/w + 0.961292/(wfeed/sf) + 0.00307712 *(l/sf) + 0.000217076*(l/sf)*l/w}
.param rskin_val  = {0.154618 + 0.00702016*(l/sf)}

* add tiny element to allow passing an IC value
*.if (ic>1e9)
Cic1 PLUS bn c=cic0
Cic2 MINUS bn c=cic0
*.else
*  Cic1 PLUS bn c=cic0 ic=ic
*  Cic2 MINUS bn c=cic0 ic=ic
*.endif

* --------- model subcircuit ------------------------------
Lskin PLUS 2 l=lskin_val
Rskin PLUS 2 r=rskin_val


*.if ((lplate_val+lfeed_val-lskin_val)>1E-18)
Lmim 2 3 l=(lplate_val+lfeed_val-lskin_val)
*.else
*Lmim 2 3 l=1E-18
*.endif

Rmim 3 4 r=rmim_val
Cmim 4 5 cmim_core l=l/sf w=w/sf
Cox  5 51  c=cox_val
Csub 51 bn c=csub_val

*.if (rsub_val>10m)
Rsub 51 bn r=rsub_val
*.else
*  Rsub 51 bn r=10m
*.endif

*.if (lfeed_val>1E-18)
Lfeed 5 MINUS l=lfeed_val
*else
*  Lfeed 5 MINUS l=1E-18
*.endif

*avoid floating node for initial condition
Rdummy 5 bn r=1G

.ends cap_rfcmim
